US08383638B2
1-({3-[(1S,2S)-2-Hydroxycyclohexyl]-4-oxo-3,4-dihydropyrido[3,4-h]quinazolin-6-yl}methyl)-4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile
The title compound was prepared by the procedure described for the synthesis of 1-({3-[(1S,2S)-2-Hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)-4-pyridin-2-ylpiperidine-4-carbonitrile in Example 2, substituting 34(1S,2S)-2-hydroxycyclohexyl]-4-oxo-3,4-dihydropyrido[3,4-h]quinazoline-6-carbaldehyde for 3-[(1S,2S)-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazoline-6-carbaldehyde and 4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile for 4-pyridin-2-ylpiperidine-4-carbonitrile. The resultant solid gave proton NMR spectra consistent with theory and a mass ion (ES+) of 509.0 for [M+H]+: 1H NMR (400 MHz, CD3OD) δ 9.89 (s, 1H), 9.07 (s, 1H), 8.88 (s, 1H), 8.72 (s, 1H), 8.63 (s, 1H), 8.49-8.43 (m, 1H), 7.54 (s, 2H), 7.25-7.13 (m, 1H), 5.09 (s, 2H), 4.16 (br s, 1H), 3.74-3.62 (m, 2H), 3.48-3.41 (m, 2H), 2.65-2.44 (m, 6H), 2.42 (s, 3H), 2.20 (br s, 1H), 2.03-1.93 (m, 1H), 1.88 (br s, 2H), 1.51 (br s, 3H).

reactant | 1-({3-[(1S,2S)-2-Hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazolin-6-yl}methyl)-4-pyridin-2-ylpiperidine-4-carbonitrile | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CN1CCC(CC1)(C#N)C1=NC=CC=C1)C=CC=C3 | C30H31N5O2
reactant | 4-oxo-3,4-dihydropyrido[3,4-h]quinazoline-6-carbaldehyde | O=C1NC=NC2=C3C(=C(C=C12)C=O)C=NC=C3 | C12H7N3O2
reactant | 3-[(1S,2S)-2-hydroxycyclohexyl]-4-oxo-3,4-dihydrobenzo[h]quinazoline-6-carbaldehyde | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)C=O)C=CC=C3 | C19H18N2O3
reactant | 4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile | CC1=CC(=NC=C1)C1(CCNCC1)C#N | C12H15N3
reactant | 4-pyridin-2-ylpiperidine-4-carbonitrile | N1=C(C=CC=C1)C1(CCNCC1)C#N | C11H13N3
product | 1-({3-[(1S,2S)-2-Hydroxycyclohexyl]-4-oxo-3,4-dihydropyrido[3,4-h]quinazolin-6-yl}methyl)-4-(4-methylpyridin-2-yl)piperidine-4-carbonitrile | O[C@@H]1[C@H](CCCC1)N1C=NC2=C3C(=C(C=C2C1=O)CN1CCC(CC1)(C#N)C1=NC=CC(=C1)C)C=NC=C3 | C30H32N6O2
